US08557983B2
2-(2-Amino-pyridin-4-yloxy)-4-fluoro-benzoic acid methyl ester
The title compound was prepared by substituting methyl 2,4-difluorobenzoate for ethyl 2,4-difluorobenzoate and 2-aminopyridin-4-ol for 2-methyl-5-indolol in EXAMPLE 3A, except here heating was at 130° C.

reactant | ethyl 2,4-difluorobenzoate | FC1=C(C(=O)OCC)C=CC(=C1)F | C9H8F2O2
reactant | 2-aminopyridin-4-ol | NC1=NC=CC(=C1)O | C5H6N2O
reactant | 2-methyl-5-indolol | CC=1NC2=CC=C(C=C2C1)O | C9H9NO
product | 2-(2-Amino-pyridin-4-yloxy)-4-fluoro-benzoic acid methyl ester | COC(C1=C(C=C(C=C1)F)OC1=CC(=NC=C1)N)=O | C13H11FN2O3
